* step test file for ngspice with some constructions that may be helpful
Vin in 0 PWL(0 0 1n 1)
R1 in out rval
XX1 0 out sub_circuit
C1 out 0 10u

.subckt sub_circuit IN OUT
L1 IN OUT 1m
.ends sub_circuit

* .option savecurrents
.param rval=100

.control

* Loop over the following code setting the variable rval to different values
 foreach rval 100 1k 10k
 
   * Changes the parameter rval to the value of the variable rval To add confusion two different things have the same name here.
   alterparam rval = $rval
   
   * New parameters are only applied after a reset, so reset.
   reset
   * the real simulation that is to be performed:
   tran 1u 5m
   * tidy up the result a bit
   remzerovec
   * Set the file type to ascii or binary, get that from the command line definition -D filetype=xxxx
   if $?filetype
    set filetype = $filetype
   else
    set filetype = binary   
   end
   * get the wanted raw file name from the '-r' command line option, as that is in $rawfile
   * $rval is at the end, to let the raw file readers know what iteration this is. Yes, this is a cludge.
   write $rawfile v(in) v(out) $rval
   * appendwrite: All subsequent writes will be appended at the end of the file instead of overwriting the existing files. The result is a raw file with multiple sections, one per iteration.
   set appendwrite
   * If you want to, you can write to multiple files (like binary + ascii) in one loop iteration, just use multiple write commands to different files
 end
 quit
.endc

.backanno
.end